US08871782B2
Methanesulfonic anhydride (0.245 g, 1.41 mmol) was added in one portion to a suspension of 7-(3-aminopropoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine (0.500 g, 1.41 mmol) in chloroform, and the reaction was stirred for 18 hours. Saturated aqueous sodium bicarbonate was added, and the reaction was stirred for 20 minutes. The aqueous layer was separated and extracted with chloroform. The combined organic fractions were washed with water and brine, dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The resulting off-white solid was dissolved in concentrated hydrochloric acid; the solution was then cooled to 0° C. and adjusted to pH 13 with the addition of 50% aqueous sodium hydroxide. The opaque solution was extracted with dichloromethane. The extract was washed sequentially with water and brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. The resulting solid was recrystallized from acetonitrile to yield 0.160 g of N-{3-[4-amino-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yloxy]propyl}methanesulfonamide as a flocculent, white solid, mp 166.5-168.5° C.

reactant | Methanesulfonic anhydride | 1.41 mmol, 0.245 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 7-(3-aminopropoxy)-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-4-amine | 1.41 mmol, 0.500 g | NCCCOC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC(C)C)CCC | C20H29N5O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-{3-[4-amino-1-(2-methylpropyl)-2-propyl-1H-imidazo[4,5-c]quinolin-7-yloxy]propyl}methanesulfonamide | 0.160 g | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CC(C)C)CCC)OCCCNS(=O)(=O)C | C21H31N5O3S
